US07566805B2
A 50 L three-necked round bottom flask equipped with a mechanical stirrer, a 2 L dropping funnel, a nitrogen inlet and an internal temperature probe was charged with benzhydrylthioacetic acid (3.5 kg, 13.54 mol), methanol (14 L) and H2SO4 (72 g) solution in isopropyl alcohol (6.5 L). To this mixture was added 30% H2O2 solution in water (3.75 L) drop wise over 80 minutes maintaining the temperature below 30 degrees C. Reaction mixture was further stirred for 7 hours, which resulted in formation of a crystalline solid. The reaction was monitored using TLC and HPLC. The resulting solid was filtered and washed with water (4.0 L) to give benzhydrylsulfinylacetic acid (2.5 kg) as a colorless solid. The peroxide was quenched with a NaHSO3 solution.

reactant | benzhydrylthioacetic acid | 13.54 mol, 3.5 kg | C(C1=CC=CC=C1)(C1=CC=CC=C1)CC(=S)O | C15H14OS
reactant | methanol | 14 L | CO | CH4O
reactant | H2SO4 | 72 g | OS(=O)(=O)O | H2O4S
reactant | H2O2 | OO | H2O2
reactant | isopropyl alcohol | 6.5 L | C(C)(C)O | C3H8O
solvent | water | 3.75 L | O | H2O
product | benzhydrylsulfinylacetic acid | 2.5 kg | C(C1=CC=CC=C1)(C1=CC=CC=C1)S(=O)CC(=O)O | C15H14O3S
